US05589467
5-O-Methyl-1,2,3-tri-O-acetyl-D-ribofuranose (5.0 g, 17 mmol) and 2,6-dichloropurine (3.3 g, 17 mmol) were thoroughly mixed. A catalytic amount of p-toluene sulfuric acid (50 mg) was added and the reaction mixture was heated to 140° C. at which point a homogeneous melt was obtained. The fusion was continued at 140° C. under oil pump vacuum for 0.5 h. The reaction mixture was dissolved in chloroform (200 ml) and washed with aqueous sodium bicarbonate (3×50 ml) and water (2×50 ml). The organic phase was dried (MgSO4), evaporated in vacuo and purified by flash chromatography eluting with a mixture of n-heptane and ethyl acetate (1:1) to provide 9-(2',3'-di-O-acetyl-5'-O-methyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (1.0 g, 14%) as an oil which crystallized from diethyl ether. A mixture of α/β-anomers (1.2 g, 17%) was also isolated, with mp 59°-61° C. 1H-NMR (400 MHz,CDCL3) δ2.06 (3H, s, --OCOCH3), 3.49 (3H, s, OCH3), 3.67, 3.72 (2H, ABX, H-5'a and H-5'b), 4.39 (1H, d, H-4'), 5.58 (1H, d, H-3'), 5.75 (1H, t, H-2'), 6.38 (1H, d, H-1'), 8.56 (1H, s, H-8). C15H16Cl2N4O6 requires C, 43.0; H, 3.9; N, 13.4. Found C, 43.1, H, 3.9, N, 13.2%.

reactant | 5-O-Methyl-1,2,3-tri-O-acetyl-D-ribofuranose | 17 mmol, 5.0 g | COC[C@@H]1[C@H]([C@H](C(OC(C)=O)O1)OC(C)=O)OC(C)=O | C12H18O8
reactant | 2,6-dichloropurine | 17 mmol, 3.3 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-(2',3'-di-O-acetyl-5'-O-methyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 1.0 g, 14% | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C15H16Cl2N4O6
